US04284631
A mixture of ethyl 4-chloro-2-(2-ethoxyethoxyimino)-3-oxobutyrate (syn isomer, 56.5 g.), thiourea (19.4 g.), sodium acetate (20.9 g.), ethanol (140 ml.) and water (140 ml.) was stirred at 40° C. for 5 hours. After removing the ethanol from the resultant solution in vacuo, the aqueous solution was adjusted to pH 6.5 with aqueous sodium bicarbonate and then extracted with ethyl acetate. Conc. hydrochloric acid was added to the stirred ethyl acetate extract under ice-cooling to form the precipitates. The precipitates were collected by filtration washed with chilled water and diethyl ether in turn and dried over phosphorus pentoxide under reduced pressure to give ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate hydrochloride (syn isomer, 23 g.).

reactant | ethyl 4-chloro-2-(2-ethoxyethoxyimino)-3-oxobutyrate | 56.5 g | ClCC(C(C(=O)OCC)=NOCCOCC)=O | C10H16ClNO5
reactant | thiourea | 19.4 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 20.9 g | C(C)(=O)[O-].[Na+]
reactant | ethanol | 140 ml | C(C)O | C2H6O
solvent | water | 140 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-(2-ethoxyethoxyimino)acetate hydrochloride | 23 g | Cl.NC=1SC=C(N1)C(C(=O)OCC)=NOCCOCC | InChI=1S/C11H17N3O4S.ClH/c1-3-16-5-6-18-14-9(10(15)17-4-2)8-7-19-11(12)13-8;/h7H,3-6H2,1-2H3,(H2,12,13);1H
